US05482969
N-(4-Benzoyl-2-fluorophenyl)-3,3,3-trifluoro-2-hydroxy-2-methylpropanamide.
To a solution of 3,3,3-trifluoro-2-hydroxy-2-methylpropanoic acid (4.51 g) in N,N-dimethylacetamide (60 mL) at -20° C. was added thionyl chloride (3.39 g) and the mixture was allowed to stir at -10° to -15° C. for 1 hour. 4-Amino-3-fluorobenzophenone (4.00 g) was added in one portion and the reaction mixture was stirred at room temperature overnight. The mixture was poured into water and the aqueous solution was decanted. The remaining oily precipitate was dissolved in dichloromethane, dried, and evaporated to yield a tan solid. Recrystallization from dichloromethane and hexanes yielded the title compound as a white solid (5.43 g); mp 138°-139° C.; MS: m/z=356(M+1); NMR: 1.62 (s,3), 7.56-7.64 (m,4), 7.70 (d,1, J=6.5), 7.75 (d,2, J=8.0), 7.82 (s,1), 8.01 (t,1, J=7.9), 9.39 (s,1). Analysis for C17H13F4NO3 : Calculated: C, 57.47; H, 3.69; N, 3.94; Found: C, 57.51; H, 3.60; N, 3.93.

reactant | 3,3,3-trifluoro-2-hydroxy-2-methylpropanoic acid | 4.51 g | FC(C(C(=O)O)(C)O)(F)F | C4H5F3O3
reactant | thionyl chloride | 3.39 g | S(=O)(Cl)Cl | Cl2OS
reactant | 4-Amino-3-fluorobenzophenone | 4.00 g | NC1=C(C=C(C(=O)C2=CC=CC=C2)C=C1)F | C13H10FNO
reactant | water | O | H2O
solvent | N,N-dimethylacetamide | 60 mL | CN(C(C)=O)C | C4H9NO
product | N-(4-Benzoyl-2-fluorophenyl)-3,3,3-trifluoro-2-hydroxy-2-methylpropanamide | 5.43 g | C(C1=CC=CC=C1)(=O)C1=CC(=C(C=C1)NC(C(C(F)(F)F)(C)O)=O)F | C17H13F4NO3
